US08420657B2
Step 1.4: 2-Chloro-7H-pyrrolo[2,3-d]pyrimidine
To a solution of 2-Chloro-5-(2-ethoxy-vinyl)-pyrimidin-4-ylamine (38.0 g, 0.19 mol) in ETOH (1000 ml) is added concentrated aqueous HCl (37%, 100 g, 1.00 mol) at rt. The reaction mixture is heated to reflux for 3 h and then evaporated to dryness under reduced pressure. Aqueous sodium carbonate solution (5%, 500 mL) is added to the residue, and the mixture is extracted with EtOAc (3×). The combined organic layers are dried over MgSO4, filtered, and concentrated under reduced pressure. The residue is recrystallized from hexane/ether (4/1, 250 ml) to give the title compound as an off-white solid.

reactant | 2-Chloro-5-(2-ethoxy-vinyl)-pyrimidin-4-ylamine | 0.19 mol, 38.0 g | ClC1=NC=C(C(=N1)N)C=COCC | C8H10ClN3O
reactant | HCl | 1.00 mol, 100 g | Cl | ClH
product | 2-Chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1N=CC2=C(N1)NC=C2 | C6H4ClN3
